US05561101
2-(2-(4,4-dimethyl-oxazolin-2-yl)-benzoyl)4,6-dimethoxypyrimidine (Table C, cpd. no. 49)
A mixture of 1.2 g of 2-(2-(4,4-dimethyl-oxazolin-2-yl)-α-bromobenzyl)-4,6-dimethoxy-pyrimidine and 2 g of Na2CO3 in 30 ml of DMSO is heated with stirring at 50°-60° C. for 3 hrs. The mixture is poured into 150 ml of water and extracted with toluene. The toluene extract is washed twice with water (2×50 ml) separated and concentrated. The thus obtained gum is chromatographed with 800 ml of 80/20 hexane/ethyl acetate, 500 ml 70/30 hexane/ethyl acetate, 60/40 ml hexane/ethyl acetate (50 ml fractions) fractions 29 to 34 yielded the title compound.

reactant | 2-(2-(4,4-dimethyl-oxazolin-2-yl)-α-bromobenzyl)-4,6-dimethoxy-pyrimidine | 1.2 g | CC1(N=C(OC1)C1=C(C(Br)C2=NC(=CC(=N2)OC)OC)C=CC=C1)C | C18H20BrN3O3
reactant | Na2CO3 | 2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 150 ml | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 2-(2-(4,4-dimethyl-oxazolin-2-yl)-benzoyl)4,6-dimethoxypyrimidine | CC1(N=C(OC1)C1=C(C(=O)C2=NC(=CC(=N2)OC)OC)C=CC=C1)C | C18H19N3O4
